US06492403B1
Unless otherwise indicated, all thioureas, isothiocyanates, thioamides and amines were purchased from Maybridge Chemical Co. Ltd.(Cornwall, U.K.), Transworld Chemical Co. (Rockville, Md.), or Aldrich Chemical Co., (Milwaukee, Wis.). (a) 4-Amino-4′-chlorodiphenylether (TCI America, Portland Oreg., 520 mg, 2.03 mmol) was slurried in 10 mL of ether and treated with ca. 1 mL of ether saturated with HCl gas. After 5 min. the solvent was removed in vacuo. To a stirring biphasic solution amine-HCl salt in 20 mL CHCl3-sat'd NaHCO3 (1:1, v/v) at ambient temperature was added thiophosgene (1.2 equiv, 2.4 mmol) in 5 mL of CHCl3 dropwise via an addition funnel. The reaction was vigorously stirred for 1 h (TLC, 50% ethyl acetate-hexanes indicates clean conversion to a higher Rf spot), at which time the layers were separated, the aqueous layer extracted with CHCl3 (1×20 mL), and the combined organic layers washed with brine (1×20 mL) and dried (Na2SO4). Concentration of the solvent in vacuo yielded the crude 4-(4-chlorophenoxy)-phenylisothiocyanate (414 mg). (b) The 4-(4-chlorophenoxy)-phenylisothiocyanate was transferred to an Ace Glass pressure tube equipped with a Teflon coated stir bar and treated with a 2.0 M solution of NH3 in 5 ml methanol (Aldrich Chemical Co., Milwaukee, Wis.)). The tube was sealed and immersed in a 80° C. oil bath. After 2 h, the reaction was cooled to 0° C. in an ice bath. The precipitates were filtered and dried under vacuum to yield amino{[4-(4-chlorophenoxy)phenyl]amino}methane-1-thione (328 mg, 79%). 1H NMR (DMSO-d6, 300 MHz) 7.02 (m, 4H), 7.41 (m, 4H), 9.65 (s, 1H); Mass Spectrum (ESI) m/z calcd. for C13H11ClN2OS, 278.8 (M+H), found 279.4.

reactant | 4-(4-chlorophenoxy)-phenylisothiocyanate | ClC1=CC=C(OC2=CC=C(C=C2)N=C=S)C=C1 | C13H8ClNOS
reactant | NH3 | N | H3N
solvent | methanol | 5 ml | CO | CH4O
product | amino{[4-(4-chlorophenoxy)phenyl]amino}methane-1-thione | 328 mg, 79% | NC(=S)NC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C13H11ClN2OS
